US07365196B2
1-Tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-ylidene-pyrrolidinium bromide
1,2-Bis-bromomethyl-benzene (66.4 g, 0.25 mol) was added to a mixture of 1-cyclopent-1-enyl-pyrrolidine (29.4 g, 0.25 mol) and Hünig's base (87 mL, 0.50 mol) in MeCN (200 mL) with vigorous stirring. An exothermic reaction ensued, bringing the mixture to reflux. The mixture was refluxed for 16 h, cooled, the product was filtered off and washed with MeCN to give the pure title compound as a white crystalline solid (48.14 g, 60%). 1H NMR (d6-DMSO, 360 MHz) δ 7.29-7.22 (4 H, m, aromatic), 4.16-4.11 (2 H, m, CH—N+), 4.04-3.99 (2 H, m, CH—N+), 3.60 (2 H, bs, bridgehead CH), 3.05 (4 H, d, benzylic), 2.17-2.05 (4 H, m, N+—C—CH2), 1.92-1.88 (2 H, m), 1.25-1.20 (2 H, m). m/z 240 (M+).

reactant | 1,2-Bis-bromomethyl-benzene | 0.25 mol, 66.4 g | BrCC1=C(C=CC=C1)CBr | C8H8Br2
reactant | 1-cyclopent-1-enyl-pyrrolidine | 0.25 mol, 29.4 g | C1(=CCCC1)N1CCCC1 | C9H15N
reactant | Hünig's base | 0.50 mol, 87 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 200 mL | CC#N | C2H3N
product | 1-Tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-ylidene-pyrrolidinium bromide | 48.14 g, 60% | [Br-].C12CC=3C=CC=CC3CC(CC1)C2=[N+]2CCCC2 | InChI=1S/C17H22N.BrH/c1-2-6-14-12-16-8-7-15(11-13(14)5-1)17(16)18-9-3-4-10-18;/h1-2,5-6,15-16H,3-4,7-12H2;1H/q+1;/p-1
